US05952350
1-[3-[3-[2-(4-Methoxyphenyl)-6-methoxynaphth-1-yl]phenyloxy]propyl]piperidine
In a manner similar to that used in Example 2, 1.04 g (2.9 mmol) of 1-(3-hydroxyphenyl)-2-(4-methoxyphenyl)-6-methoxynaphthalene, 0.86 g (4.35 mmol) of 1-(3-chloropropyl)piperidine hydrochloride, and 2 g (14.4 mmol) of K2CO3 were converted to 1.29 g of the title compound, isolated as a brown oil.

reactant | 1-(3-hydroxyphenyl)-2-(4-methoxyphenyl)-6-methoxynaphthalene | 2.9 mmol, 1.04 g | OC=1C=C(C=CC1)C1=C(C=CC2=CC(=CC=C12)OC)C1=CC=C(C=C1)OC | C24H20O3
reactant | 1-(3-chloropropyl)piperidine hydrochloride | 4.35 mmol, 0.86 g | Cl.ClCCCN1CCCCC1
reactant | K2CO3 | 14.4 mmol, 2 g | C(=O)([O-])[O-].[K+].[K+]
product | 1-[3-[3-[2-(4-Methoxyphenyl)-6-methoxynaphth-1-yl]phenyloxy]propyl]piperidine | 1.29 g | COC1=CC=C(C=C1)C1=C(C2=CC=C(C=C2C=C1)OC)C=1C=C(C=CC1)OCCCN1CCCCC1 | C32H35NO3
